US07049315B2
8,9-Dimethoxy-2,3-methylenedioxy-5-[2-(N,N-dimethylamino)-1-methylethyl]-5H-dibenzo[c,h]1,6-naphthyridin-6-one:
Prepared from N-(6,7-Methylenedioxyquinolin-4-yl)-N-[2-(N,N-dimethylamino)-1-methylethyl)-2-iodo-4,5-dimethoxybenzamide; (30.4% yield); reaction time 30 min; mp 186-187° C.; IR (KBr) 1649; 1H NMR (CDCl3); δ 1.95-1.98 (m, 9H), 2.77 (dd, 1H, J=12.0, 8.0), 3.21 (dd, 1H, J=12.0, 8.0), 4.06 (s, 3H), 4.13 (s, 3H), 4.84-4.92 (m, 1H), 6.17 (s, 2H), 7.46 (s, 1H), 7.66 (s, 1H), 7.77 (s, 1H), 7.87 (s, 1H), 9.35 (s, 1H); 13C NMR (CDCl3) δ 19.7, 45.5, 56.2, 56.3, 59.5, 63.1, 100.9, 101.9, 102.1, 107.0, 108.7, 112.4, 115.2, 120.5, 127.3, 142.6, 143.3, 147.0, 147.3, 149.9, 150.1, 154.0, 164.9; HRMS calcd for C24H25N3O5H: 436.1794; found 436.1863.

reactant | N-(6,7-Methylenedioxyquinolin-4-yl)-N-[2-(N,N-dimethylamino)-1-methylethyl)-2-iodo-4,5-dimethoxybenzamide | C1OC=2C=C3C(=CC=NC3=CC2O1)N(C(C1=C(C=C(C(=C1)OC)OC)I)=O)C(CN(C)C)C | C24H26IN3O5
reactant | KBr | [K+].[Br-]
product | 8,9-Dimethoxy-2,3-methylenedioxy-5-[2-(N,N-dimethylamino)-1-methylethyl]-5H-dibenzo[c,h]1,6-naphthyridin-6-one | 30.4% yield | COC=1C(=CC2=C(C(N(C3=C4C(=NC=C23)C=C2C(=C4)OCO2)C(CN(C)C)C)=O)C1)OC | C24H25N3O5
